US09284271B2
3-(2-bromoethyl)-6-chloro-5-methyl-2-(triethylsilyl)-1H-indole was prepared according to method D Step III with 2-(6-chloro-5-methyl-2-(triethylsilyl)-1H-indol-3-yl)ethanol (1.44 g; 4.45 mmol) in THF (6 mL) and triphenyl phosphine (1.75 g; 6.67 mmol) and perbromomethane (2.21 g; 6.67 mmol) in THF (40 mL) pre-stirred for 30 minutes. The crude mixture was purified by flash chromatography on silica gel (eluent 2 to 20% ethyl acetate in heptane) to afford 0.725 g (42%) of 3-(2-bromoethyl)-6-chloro-5-methyl-2-(triethylsilyl)-1H-indole as a brown oil.

reactant | 2-(6-chloro-5-methyl-2-(triethylsilyl)-1H-indol-3-yl)ethanol | 4.45 mmol, 1.44 g | ClC1=C(C=C2C(=C(NC2=C1)[Si](CC)(CC)CC)CCO)C | C17H26ClNOSi
reactant | triphenyl phosphine | 6.67 mmol, 1.75 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | perbromomethane | 6.67 mmol, 2.21 g | BrC(Br)(Br)Br | CBr4
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 3-(2-bromoethyl)-6-chloro-5-methyl-2-(triethylsilyl)-1H-indole | 0.725 g, 42% | BrCCC1=C(NC2=CC(=C(C=C12)C)Cl)[Si](CC)(CC)CC | C17H25BrClNSi
